US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-5-hydroxy-8-methyl-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Pyridine (300 mg) and a 40% aqueous solution (300 mg) of methylamine were added to 1-(5-amino-2,4-difluorophenyl)-6,7-difluoro-5-hydroxy-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (100 mg), and the mixture was stirred at 30° C. for 2 days. Acetic acid (1 drop) and ethanol (1 ml) were added to the reaction mixture, and the solvent was distilled off. Methanol was added to the residue, and solids were collected by filtration to obtain the title compound (33 mg) as a brown powder.

reactant | Pyridine | 300 mg | N1=CC=CC=C1 | C5H5N
reactant | methylamine | CN | CH5N
reactant | 1-(5-amino-2,4-difluorophenyl)-6,7-difluoro-5-hydroxy-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=C(C(=C(C(=C12)C)F)F)O)=O)C(=O)O)F)F | C17H10F4N2O4
catalyst | Acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 1-(5-Amino-2,4-difluorophenyl)-6-fluoro-5-hydroxy-8-methyl-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 33 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=C(C(=C(C(=C12)C)NC)F)O)=O)C(=O)O)F)F | C18H14F3N3O4
